US06750243B1
(ix) 4-Hydroxy-6-chloro-8-trifluoromethoxychroman-4-yl carboxylic acid
A solution of 4-hydroxy-6-chloro-8-trifluoromethoxychroman-4-yl carboxylic acid, methyl ester in iso-propanol (50 mL) was added to KOH/H2O (20%, 60 mL) and the mixture was refluxed overnight. The resultant solution was partially concentrated, and the remainder was acidified with H2SO4 (10%). The very turbid mixture was extracted with ether (3×), and the combined organic phase was dried (Na2SO4) and concentrated. The crude product was purified via prep-HPLC (CH3CN:0.1M ammonium acetate (30:60)). The fractions of interest were partly concentrated and extracted with ether. The combined organic layers were washed with water, dried (Na2SO4), and concentrated, yielding 0.24 g (10% over steps (vi)-(ix)).

reactant | 4-hydroxy-6-chloro-8-trifluoromethoxychroman-4-yl carboxylic acid, methyl ester | OC1(CCOC2=C(C=C(C=C12)Cl)OC(F)(F)F)C(=O)OC | C12H10ClF3O5
reactant | KOH H2O | 60 mL | [OH-].[K+].O
solvent | iso-propanol | 50 mL | C(C)(C)O | C3H8O
product | 4-Hydroxy-6-chloro-8-trifluoromethoxychroman-4-yl carboxylic acid | OC1(CCOC2=C(C=C(C=C12)Cl)OC(F)(F)F)C(=O)O | C11H8ClF3O5
